US07309715B2
Synthesis of N-(2-methyl-benzooxazol-6-yl)-4-propyl-benzenesulfonamide, STX 840 (KRB01010):
To a solution of 4n-propylbenzenesulphonyl chloride (163 mg, 0.744 mmol) in dichloromethane (3 mL) was added pyridine (140 μL, 1.72 mmol) and the mixture was stirred under N2 for 5 min, after which time 6-amino-2-methylbenzoxazole (105 mg, 0.709 mmol) was added. The resulting mixture was stirred for 1 h at room temperature, then saturated NaHCO3 solution was added (8 mL) and the mixture was extracted into ethyl acetate (15 mL). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated to give a residue that was purified using flash chromatography to afford a pale pink solid (164 mg, 70%), single spot at Rf 0.49 (60:40 hexane:ethyl acetate). mp 101.7-102.3° C., HPLC purity 99% (tR 2.02 min in 10% water-acetonitrile). 1H NMR (CDCl3): δ 7.61 (2H, m), 7.43 (1H, d, J=8.4 Hz), 7.37 (1H, d, J=1.8 Hz), 7.19 (2H, m), 6.83 (2H, m), 2.57 (5H, m), 1.58 (2H, sextet, J=7.3 Hz), 0.88 (3H, t, J=7.3 Hz). LCMS: 329.21 (M−). FAB-MS (MH+, C17H18N2O3S): calcd 331.1116, found 331.1107.

reactant | 4n-propylbenzenesulphonyl chloride | 0.744 mmol, 163 mg | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | pyridine | 1.72 mmol, 140 μL | N1=CC=CC=C1 | C5H5N
reactant | 6-amino-2-methylbenzoxazole | 0.709 mmol, 105 mg | NC1=CC2=C(N=C(O2)C)C=C1 | C8H8N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-(2-methyl-benzooxazol-6-yl)-4-propyl-benzenesulfonamide | 164 mg, 70% | CC=1OC2=C(N1)C=CC(=C2)NS(=O)(=O)C2=CC=C(C=C2)CCC | C17H18N2O3S
